US04556672
6-Phenyl-2-oxindole-1-carboxamide
To 4.5 g. (21.5 mmole) of 6-phenyl-2-oxindole in a mixture of 100 ml. of toluene and 25 ml. of tetrahyrofuran was added, with stirring, at 5° C., 2.2 ml. (25.8 mmole) of chlorosulfonyl isocyanate. Stirring was continued for 1 hour at 0°-5° C. and then 100 ml. of water was added. The solid was recovered by filtration and added to a mixture of 40 ml. of glacial acetic acid and 80 ml. of water. The resulting mixture was heated at 100° C. for 1 hour, cooled and filtered. The residue was dried to give 3.1 g. of the title compound, mp. 188°-189° C.

reactant | 6-phenyl-2-oxindole | 21.5 mmole | C1(=CC=CC=C1)C1=CC=C2CC(NC2=C1)=O | C14H11NO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | tetrahyrofuran | O1CCCC1 | C4H8O
reactant | chlorosulfonyl isocyanate | 25.8 mmole | ClS(=O)(=O)N=C=O | CClNO3S
solvent | water | O | H2O
product | 6-Phenyl-2-oxindole-1-carboxamide | C1(=CC=CC=C1)C1=CC=C2CC(N(C2=C1)C(=O)N)=O | C15H12N2O2
